data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21]=CCCNCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNCCC=[O:21] 10=20;20,21=21
C[P+:20](C)(C)[S-:10]>>C[P:20](=[S:10])(C)C 10=20,
COC1=CC=C(C=C1)[CH2:20][Br:21].C(C(F)(F)F)[NH2:10]>>COC1=CC=C(C=C1)[CH2:20][NH2+:10]CC(F)(F)F.[Br-:21] 10=20;20,21=21
CC1=NC(=CS1)C=C(C)C(CC=C)[OH+][Ti:20](OC(C)C)(OC(C)C)OC(C)C.[OH-:10].CCCC[Sn](CCCC)(CCCC)OC(C)C>>CC1=NC(=CS1)C=C(C)C(CC=C)[OH+][Ti-:20]([OH:10])(OC(C)C)(OC(C)C)OC(C)C.CCCC[Sn](CCCC)(CCCC)OC(C)C 10=20,
CN1CCC[S:10]C1.C[S:20][S+:21](C)C.[B-](F)(F)(F)F>>CN1CCC[S+:10](C1)[S:20]C.C[S:21]C.[B-](F)(F)(F)F 10=20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)C#N)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C(O[CH:22]=[C:21]1S(=O)(=O)O)C#N 10=20;20,21=21,22
CC(=O)O[C:20](=[O:21])C.C[N+]1(C2CCC1C=CC2)[O-:10]>>CC(=O)O[C:20](C)([O-:21])[O:10][N+]1(C2CCC1C=CC2)C 10=20;20,21=21
C1=CC=C(C=C1)OC2=CC(=CC=C2)[CH2:20][O:21][P+:22](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.C(CC(=C(F)F)F)CC(=O)[O-:10].CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>C1=CC=C(C=C1)OC2=CC(=CC=C2)[CH2:20][O:10]C(=O)CCCC(=C(F)F)F.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
[H:20][O:21]C(CCC)CCCCC.[H:10][Na:11]>>CCCCCC(CCC)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][O+:21]=C(C1(CCC(C(C1CC(=O)C)(C(=O)OCC)C(=O)OCC)C)C#N)OCC.[NH3:10].O.[Cl-]>>[H:20][NH3+:10].CCOC(=[O:21])C1(CCC(C(C1CC(=O)C)(C(=O)OCC)C(=O)OCC)C)C#N.O.[Cl-] 10=20;20,21=21
[H:20][O:21][C:22](=[O:23])C.C1=CC=C(C=C1)C2C=C([NH+](C2(C3=CC=CO3)[O-:10])CC(=O)O)C4=C5C=CC=CC5=CC=C4.O>>[H:20][O:10]C1(C(C=C([NH+]1CC(=O)O)C2=C3C=CC=CC3=CC=C2)C4=CC=CC=C4)C5=CC=CO5.C[C:22](=[O:21])[O-:23].O 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]C.COC(C1CC(CN1C(=O)OCC2=CC=CC=C2)O)(O)[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]C(C1CC(CN1C(=O)OCC2=CC=CC=C2)O)(O)OC.C[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
C[Si](C)(C)C[CH:11]=[CH2:10].C1CC2CC(=O)[N+:21](=[C:20]2C1)C(CO[Ti-](Cl)(Cl)(Cl)Cl)C3=CC=CC=C3>>C[Si](C)(C)C[CH+:11][CH2:10][C:20]12CCCC1CC(=O)[N:21]2C(CO[Ti-](Cl)(Cl)(Cl)Cl)C3=CC=CC=C3 10,11=10,20;20,21=21
[H:20][NH+:21](C(C)C1=CC=CC=C1)C(C(=O)OCC)[O-].CC(C1=CC=CC=C1)[NH2:10].CC1=CC=CC=C1>>[H:20][NH2+:10]C(C)C1=CC=CC=C1.CCOC(=O)C([NH:21]C(C)C1=CC=CC=C1)[O-].CC1=CC=CC=C1 10=20;20,21=21
CCC(=O)[O:21][C:20](CC)(N(C1=CC=CC=C1)C2(CCN(CC2)CCC3=CC=CC=C3)C(=O)OC)[O-:10]>>CC[C:20](=[O:10])N(C1=CC=CC=C1)C2(CCN(CC2)CCC3=CC=CC=C3)C(=O)OC.CCC(=O)[O-:21] 10=20;20,21=21
CN[C:20](O)([O-:10])[O:21]C>>CN[C:20](=[O:10])O.C[O-:21] 10=20;20,21=21
C(CC[OH:10])C[CH:20]=[OH+:21]>>C1CC[OH+:10][CH:20](C1)[OH:21] 10=20;20,21=21
[H:20][CH:21]1C(=C([O+:23]=[C:22]1C(=O)OCC)C(=O)OCC)C2=C(C(=CC=C2)N3CCCCC3)[N+](=O)[O-].CC(=O)[O-:10].C1CCOC1.O>>[H:20][O:10]C(=O)C.CCOC(=O)[C:22]1=[CH:21]C(=C([O:23]1)C(=O)OCC)C2=C(C(=CC=C2)N3CCCCC3)[N+](=O)[O-].C1CCOC1.O 10=20;22,23=23;20,21=21,22
[CH2-:10][N+]#N.C1C2C[C:20](=[O:21])C1C=C2>>C1C2C[C:20](C1C=C2)([CH2:10][N+]#N)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CCCC=C(C1=C(C=CC(=C1)Br)O)[O-:10].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.O>>[H:20][O:10]C(=CCCC)C1=C(C=CC(=C1)Br)O.C(=O)(C(F)(F)F)[O-:21].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.O 10=20;20,21=21
CC[OH:10].CC1CCCC[C+:20]1C>>CC[OH+:10][C:20]1(CCCCC1C)C 10=20,
CS[C:20]([CH:10]=[C:11](C1=CC=CC=C1)[O-:12])([O+](CC#C)[K])[S+:21](C)C>>C[S:21]C.CS[C:20](=[CH:10][C:11](=[O:12])C1=CC=CC=C1)[O+](CC#C)[K] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)O.CC1(C[O:10]1)C>>[H:20][O+:10]1CC1(C)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][NH2+:21]C(C)C1=CC=CC=C1.CCOC(=O)C(NC(C)C1=CC=CC=C1)[O-:10].CC1=CC=CC=C1>>[H:20][O:10]C(C(=O)OCC)NC(C)C1=CC=CC=C1.CC(C1=CC=CC=C1)[NH2:21].CC1=CC=CC=C1 10=20;20,21=21
C1CC[NH:10]CC1.C1=CC=C(C=C1)[CH2:20][Br:21]>>C1CC[NH+:10](CC1)[CH2:20]C2=CC=CC=C2.[Br-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C1=CC=C(C=C1)[N+](=O)[O-].CCOC(=O)NN(C(=[O:10])OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)CCCCN4C(=O)C5=C(N=CN5CC6=CC=CC=C6)N(C4=O)C>>[H:20][O+:10]=C(N(NC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)CCCCN4C(=O)C5=C(N=CN5CC6=CC=CC=C6)N(C4=O)C)OCC.C1=CC(=CC=C1C(=O)[O-:21])[N+](=O)[O-] 10=20;20,21=21
CS(=O)(=O)C1=CC=C(C=C1)C2=C[N-:10][C:20](C=N2)([N+:21]#N)O.OS(=O)(=O)[O-].[Na+]>>CS(=O)(=O)C1=CC=C(C=C1)C2=C[N:10]=[C:20](C=N2)O.N#[N:21].OS(=O)(=O)[O-].[Na+] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C[C:11](=[CH:10]CC1(CCCC(=C1O)Br)C(=O)OC)[OH:12]>>[H:20][CH:10](CC1(CCCC(=C1O)Br)C(=O)OC)[C:11](=[OH+:12])C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
C[C:11](=[CH:10]C(=O)OC)[O-:12].C1[CH2:20][O:21]1>>C[C:11](=[O:12])[CH:10]([CH2:20]C[O-:21])C(=O)OC 10,11=10,20;20,21=21;12=11
[H:20][CH:21](C1=CC=CC=C1)[C:22](=[O:23])C.[OH-:10]>>[H:20][OH:10].C[C:22](=[CH:21]C1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
C[S:10]C.[OH:21][Cl:20]>>C[S+:10](C)[Cl:20].[OH-:21] 10=20;20,21=21
[H:20][O+:21](C(C1(C(CC2=C(C1=O)C(=C(C=C2)OC)O)CCC)CCC(=O)C)[O-])[Na].[OH:10][Na].O>>[H:20][OH+:10][Na].CCCC1CC2=C(C(=C(C=C2)OC)O)C(=O)C1(CCC(=O)C)C([O-])[O:21][Na].O 10=20;20,21=21
